US09428783B2
14.2. Expression and Purification of MBP Fusion his6-Tagged DES
Cells of E. coli 7Δ harboring pELAC-MBP-DES-HT was grown in LB medium containing 100 μg/mL ampicillin in a test tube at 37° C. up to OD610nm˜2. 2 mL of the resulting culture was inoculated into 100 mL of LB medium supplemented with IPTG (final concentration of 0.1 mmol/L) in a 500 ml Sakaguchi flask at 30° C., for 8 hours. Induced cells were harvested from 1.6 L of cultivation broth, re-suspended in 200-240 mL of HT-II buffer (50 mM Tris-HCL, pH 8.0, 0.3 M NaCl, 10 mM imidazole, 15% glycerol), and sonicated using sonicator (INSONATOR 201M, KUBOTA). The debris was removed by centrifugation at 4° C. and 14,000 rpm for 15 minutes followed by filtration through 0.45 mm filter (Millipore). A solution of crude proteins was loaded onto HisTALON Superflow cartridge, 5 ml (Clontech) using AKTA avant 25 (GE Healthcare) in accordance with the manufacturer's recommendations. Fractions containing MBP fused His6-tagged DES were combined, and desalted using PD-10 columns (GE Healthcare) equilibrated with SC-buffer (50 mM Tris-HCl, pH8.0, 0.3 M NaCl, 15% glycerol).

reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | IPTG | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
reactant | Tris | 50 mM | C(C(CO)(CO)N)O | C4H11NO3
reactant | NaCl | 0.3 M, pH 8.0 | [Na+].[Cl-]
reactant | imidazole | 10 mM | N1C=NC=C1 | C3H4N2
solvent | glycerol | OCC(O)CO | C3H8O3
product | DES | CC/C(=C(/CC)\C=1C=CC(=CC1)O)/C=2C=CC(=CC2)O | C18H20O2
